US08609653B2
2-(tert-butoxy)-2-(4-(chroman-6-yl)-1-(4-methoxy-3-(trifluoromethyl)benzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid
The title compound was prepared in a manner similar to that described in Example 27, Step H from methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate and 4-methoxy-3-(trifluoromethyl)benzyl bromide. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.58 (s, 1 H), 7.50-7.37 (m, 2 H), 7.26-7.19 (m, 1 H), 7.04-7.00 (m, 1 H), 6.98-6.89 (m, 2 H), 6.27-6.20 (m, 1 H), 5.62-5.56 (m, 1 H), 5.53-5.44 (m, 1 H), 5.43-5.34 (m, 1 H), 4.32-4.24 (m, 2 H), 3.89 (s, 3 H), 2.96-2.79 (m, 2 H), 2.72 (s, 3 H), 2.15-2.06 (m, 2 H), 1.00-0.92 (s, 9 H); LC/MS (m/z) ES+=583.38 (M+1).

reactant | methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate | C(C)(C)(C)OC(C(=O)OC)C=1C(=C2C(=NC1C)NC=C2)C=2C=C1CCCOC1=CC2 | C24H28N2O4
reactant | 4-methoxy-3-(trifluoromethyl)benzyl bromide | COC1=C(C=C(CBr)C=C1)C(F)(F)F | C9H8BrF3O
product | 2-(tert-butoxy)-2-(4-(chroman-6-yl)-1-(4-methoxy-3-(trifluoromethyl)benzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid | C(C)(C)(C)OC(C(=O)O)C=1C(=C2C(=NC1C)N(C=C2)CC2=CC(=C(C=C2)OC)C(F)(F)F)C=2C=C1CCCOC1=CC2 | C32H33F3N2O5
